US08058285B2
1.23 g (3.5 mmol) 2-ethylthio-9-methyl-7-phenyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidin-4-one is refluxed in 10 ml (10.9 mol) phosphoroxychloride for 6 h. Then, the product is poured onto about 100 g ice water and neutralized with saturated sodium hydrogen carbonate solution. The precipitate is sucked off, washed with about 100 ml water, dried and purified by means of flash chromatography (dichloromethane/petroleum ether 5:1). 0.29 g (22%) 4-chloro-2-ethylthio-9-methyl-7-phenyl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine is obtained.

reactant | 2-ethylthio-9-methyl-7-phenyl-pyrido[3′,2′:4,5]-thieno[3,2-d]pyrimidin-4-one | 3.5 mmol, 1.23 g | C(C)SC=1NC(C2=C(N1)C1=C(S2)N=C(C=C1C)C1=CC=CC=C1)=O | C18H15N3OS2
reactant | phosphoroxychloride | 10.9 mol, 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-chloro-2-ethylthio-9-methyl-7-phenyl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine | 0.29 g, 22% | ClC=1C2=C(N=C(N1)SCC)C1=C(S2)N=C(C=C1C)C1=CC=CC=C1 | C18H14ClN3S2
